US05552551
A solution of 5.00 g (36.7 mmol) of 2'-hydroxyacetophenone, 4.85 g (36.7 mmol) of trans-cinnamaldehyde, 11.10 g NaOH (in 20 mL of water) and 250 mL MeOH was stirred for 23 hours before the solution was poured into 1000 mL water. The resulting mixture was neutralized with dilute HCl and the yellow precipitate was collected by filtration. Recrystallization from MeOH gave a pure intermediate chalcone product. Further oxidation of the above chalcone was carried out with excess H2O2 (30%) in basic (NaOH aq.) MeOH solution for 12 hours. This solution was poured into water, and neutralized with dilute HCl. The resulting light yellow precipitate was collected by filtration and the pure desired product was obtained by recrystallization from MeOH with 7% overall yield. MP: 189°-191° C. Quantum yield (relative to 3-hydroxyflavone in CH2Cl2) 0.04. Extinction coefficient εmax (M-1 cm-1) 26,000. λmax (abs)=374 nm and λmax (em)=600 nm.

reactant | 2'-hydroxyacetophenone | 36.7 mmol, 5.00 g | OC1=C(C=CC=C1)C(C)=O | C8H8O2
reactant | trans-cinnamaldehyde | 36.7 mmol, 4.85 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
reactant | NaOH | 20 mL, 11.10 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 1000 mL | O | H2O
solvent | MeOH | 250 mL | CO | CH4O
product | chalcone | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
